US06025385
Triphosgene (742 mg, 2.5 mmol) was dissolved in benzene (60 ml), followed by the addition of a solution of 4-pyrrolidinopiperidine (1.00 g, 6.5 mmol) in benzene and triethylamine (7.5 mmol). The resulting mixture was stirred at room temperature for 17 hours. Chloroform was added to the reaction mixture, and the thus-obtained mixture was washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (chloroform-acetone mixed solvent [1:2]), whereby 4-pyrrolidinopiperidinocarbonyl chloride (158 mg, 11%) was obtained.

reactant | Triphosgene | 2.5 mmol, 742 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-pyrrolidinopiperidine | 6.5 mmol, 1.00 g | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | triethylamine | 7.5 mmol | C(C)N(CC)CC | C6H15N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-pyrrolidinopiperidinocarbonyl chloride | 158 mg, 11% | N1(CCCC1)C1CCN(CC1)C(=O)Cl | C10H17ClN2O
